US07157488B2
N-t-Butoxycarbonyl-2-(6-chloro-1H-indol-3-yl)ethylamine
Combine di-tert-butyl dicarbonate (1.2 g, 5.34 mmol), 6-chlorotryptamine (866.4 mg, 4.45 mmol)d and NaHCO3 (598.2 mg) in dioxane (50 ml). Stir at ambient temperature. After 15 hours, evaporate to residue, partition the residue between water and dichloromethane. Separate the layer and extract the aqueous layer with dichloromethane. Combine the organic extracts, wash with brine, dry (Na2SO4), filter and then evaporated to give the title compound as a light yellow oil.

reactant | di-tert-butyl dicarbonate | 5.34 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-chlorotryptamine | 4.45 mmol, 866.4 mg | ClC=1C=C2NC=C(CCN)C2=CC1 | C10H11ClN2
reactant | NaHCO3 | 598.2 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-t-Butoxycarbonyl-2-(6-chloro-1H-indol-3-yl)ethylamine | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC(=CC=C12)Cl | C15H19ClN2O2
